US05489580
For each diastereomer of (4-heptadecyl-3,6,8-trioxabicyclo[3.2.1]octane, 260 mg of the diastereomer (0.73 mmol) was mixed with 48 mg of LiAlH4, in 5 mL of diethyl ether, and then refluxed gently. Dropwise, 15 mg (1.1 mmol) of AlCl3, in 5 mL of diethyl ether was added to the refluxing solution over a 5 minute period. The resulting reaction mixture was then refluxed vigorously over a period of about several hours. The reaction mixture was subsequently cooled to 0° C., quenched by the dropwise addition of ethylacetyl ether, and then mixed with 10 mL of water to form the associated diastereomers of 5-heptadecyl-2-hydroxy methyl-1,4-dioxane. This product was then extracted from the reaction mixture with diethyl ether and the product extract was subsequently dried and evaporated.

reactant | 4-heptadecyl-3,6,8-trioxabicyclo[3.2.1]octane | C(CCCCCCCCCCCCCCCC)C1OCC2COC1O2 | C22H42O3
reactant | LiAlH4 | 48 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | AlCl3 | 1.1 mmol, 15 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | 5-heptadecyl-2-hydroxy methyl-1,4-dioxane | C(CCCCCCCCCCCCCCCC)C1OCC(OC1)CO | C22H44O3
